US04788206
In the manner described in Example 99, 3,3-bis(4-methylphenyl) -2-propenal (9.45 g) was reacted with (carbomethoxymethylene)triphenylphosphorane (15.3 g) in carbon tetrachloride (95 ml) for 3 days at room temperature. The solvent was removed under reduced pressure and the residue was stirred at reflux in mixture of methanol (40 mL) and 2N NaOH for 45 minutes. The cooled solution was diluted with water (300 ml), extracted with dichloromethane (3×100 mL) to remove non-acidic material, and then acidified with 6N HCI (50 ML) and extracted with dichloromethane. The dried (MgSO4) extracts were evaporated and the crude product was crystallized from 2-propanol to afford 7.5 g of (E)-5,5-bis(4-methylphenyl)-2,4-pentadienoic acid, mp 224.5°-226.5° C.

reactant | 3,3-bis(4-methylphenyl) -2-propenal | 9.45 g | CC1=CC=C(C=C1)C(=CC=O)C1=CC=C(C=C1)C | C17H16O
reactant | (carbomethoxymethylene)triphenylphosphorane | 15.3 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | carbon tetrachloride | 95 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (E)-5,5-bis(4-methylphenyl)-2,4-pentadienoic acid | 7.5 g | CC1=CC=C(C=C1)C(=C/C=C/C(=O)O)C1=CC=C(C=C1)C | C19H18O2
